US06916819B2
A mixture of 4-chloro-6-isopropyl-3-nitro-1H-pyridin-2-one (700 mg, 3.23 mmol) in 6-7 mL of 7 N NH3 in MeOH is stirred at 100° C. in a sealed tube for 1.5 h. After cooling, the reaction mixture is concentrated in vacuo. The residue is suspended in H2O, filtered, washed with H2O, and dried, yielding 4-amino-6-isopropyl-3-nitro-1H-pyridin-2-one. 1H NMR (DMSO-d6, 300 MHz) δ 10.96 (br s, 1H), 8.15 (br s, 2H), 5.70 (d, J=0.9 Hz, 1H), 2.58 (sept, J=6.9 Hz, 1H), 1.11 (d, J=6.9 Hz, 6H) ppm.

reactant | 4-chloro-6-isopropyl-3-nitro-1H-pyridin-2-one | 3.23 mmol, 700 mg | ClC1=C(C(NC(=C1)C(C)C)=O)[N+](=O)[O-] | C8H9ClN2O3
reactant | NH3 | 7 N, 6-7 mL | N | H3N
solvent | MeOH | CO | CH4O
product | 4-amino-6-isopropyl-3-nitro-1H-pyridin-2-one | NC1=C(C(NC(=C1)C(C)C)=O)[N+](=O)[O-] | C8H11N3O3
